US06680317B2
c) N-(2,3-Difluorophenyl)-N′-[4-chloro-2-tert-butyldimethylsilyloxy-3-(N″,N″-dimethylaminosulfonyl)phenyl]thiourea
Following the general procedure for protected phenyl thiourea formation outlined in example 12, N-[4-chloro-2-hydroxy-3-(N″,N″-dimethylaminosulfonyl)phenyl]-N′-(2,3-difluorophenyl)thiourea (418 mg, 1.0 mmol), tert-butyldimethylsilyl chloride (745 mg, 5.0 mmol) and imidazole (136 mg, 2.0 mmol) were reacted to form the desired product (347 mg, 65%). EI-MS m/z 536.2 (M+).

reactant | phenyl thiourea | C1(=CC=CC=C1)NC(=S)N | C7H8N2S
reactant | N-[4-chloro-2-hydroxy-3-(N″,N″-dimethylaminosulfonyl)phenyl]-N′-(2,3-difluorophenyl)thiourea | 1.0 mmol, 418 mg | ClC1=C(C(=C(C=C1)NC(=S)NC1=C(C(=CC=C1)F)F)O)S(=O)(=O)N(C)C | C15H14ClF2N3O3S2
reactant | tert-butyldimethylsilyl chloride | 5.0 mmol, 745 mg | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 2.0 mmol, 136 mg | N1C=NC=C1 | C3H4N2
product | N-(2,3-Difluorophenyl)-N′-[4-chloro-2-tert-butyldimethylsilyloxy-3-(N″,N″-dimethylaminosulfonyl)phenyl]thiourea | 347 mg, 65% | FC1=C(C=CC=C1F)NC(=S)NC1=C(C(=C(C=C1)Cl)S(=O)(=O)N(C)C)O[Si](C)(C)C(C)(C)C | C21H28ClF2N3O3S2Si
